US07084166B2
Preparation of 1,1-diindol-3-yl-tetradecane (ST 1369)
The compound was prepared as described in example 2/4, reacting the indole with tetradecane aldehyde. Yield 80%.

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | tetradecane aldehyde | C(CCCCCCCCCCCCC)=O | C14H28O
product | 1,1-diindol-3-yl-tetradecane | Yield 80% | N1C=C(C2=CC=CC=C12)C(CCCCCCCCCCCCC)C1=CNC2=CC=CC=C12 | C30H40N2
